US06268387B1
3-Amino-4-methoxy-N-(2,4-difluorophenyl)-benzamide
Prepared according to the procedure described for Example 1 using oxalyl chloride (3.0 mL, 34.39 mmol), 4-methoxy-3-nitrobenzoic acid (5.00 g, 25.36 mmol), DMF (1.0 mL, 12.92 mmol), and 2,4-difluoroaniline (5.2 mL, 51.07 mmol) to afford the product (6.07 g), m.p. 166-168° C. after trituration in hexane.

reactant | oxalyl chloride | 34.39 mmol, 3.0 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-methoxy-3-nitrobenzoic acid | 25.36 mmol, 5.00 g | COC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H7NO5
reactant | DMF | 12.92 mmol, 1.0 mL | CN(C)C=O | C3H7NO
reactant | 2,4-difluoroaniline | 51.07 mmol, 5.2 mL | FC1=C(N)C=CC(=C1)F | C6H5F2N
solvent | hexane | CCCCCC | C6H14
product | 3-Amino-4-methoxy-N-(2,4-difluorophenyl)-benzamide | 6.07 g | NC=1C=C(C(=O)NC2=C(C=C(C=C2)F)F)C=CC1OC | C14H12F2N2O2
